US07550598B2
(Z)-2-(dimethylamino)-N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and 2-(dimethylamino)acetyl chloride in THF according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.71 (t, J=7.33 Hz, 3H) 1.28-1.38 (m, 2H) 2.24 (bs, 2H) 2.90 (s, 6H) 4.21 (s, 2H) 6.79 (s, 1H) 7.58 (t, J=7.58 Hz, 1H) 7.76 (d, J=8.59 Hz, 2H) 7.79-7.90 (m, 4H) 8.10 (d, J=8.34 Hz, 1H) 9.89 (s, 1H) 10.94 (s, 1H); ESI-MS: m/z calc'd for C25H27N5O2S 461.58. found 462.3 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | 2-(dimethylamino)acetyl chloride | CN(CC(=O)Cl)C | C4H8ClNO
solvent | THF | C1CCOC1 | C4H8O
product | (Z)-2-(dimethylamino)-N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide | CN(CC(=O)NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC)C | C25H27N5O2S
